US06982278B2
2-{4-Butyl-3-[2-(5-methyl-2-phenyloxazol-4-yl)ethoxy]phenoxy}-2-methylpropionic acid
A solution of 2-{4-butyl-3-[2-(5-methyl-2-phenyloxazol-4-yl)ethoxy]phenoxy}-2-methylpropionic acid ethyl ester (0.12 g, 0.258 mmol) in ethanol (3 mL) was treated with 2 N aqueous NaOH (0.64 mL), and heated at 55° C. for 8 h. The reaction was cooled to ambient temperature and concentrated down to near dryness. The residue was then diluted with EtOAc (25 mL) and water (20 mL) and acidified to pH=1 with 1N aqueous HCl. The organic layer was washed with brine (20 mL), dried (Na2SO4) and concentrated in vacuo to give a white solid (0.10 g, 88%). 1H NMR (400 MHz, CDCl3) δ 7.99-7.97 (m, 2H), 7.00 (d, J=7.8 Hz, 1H), 6.79 (d, J=2.0 Hz, 1H), 6.49 (dd, J=8.3, 2.0 Hz, 1H), 4.23 (t, J=7.6 Hz, 2H), 2.92 (t, J=7.6 Hz, 2H), 2.52 (t, J=7.6 Hz, 2H), 2.38 (s, 3H), 1.59 (s, 6H), 1.50 (quintet, J=7.8 Hz, 2H), 1.32 (sextet, J=7.5 Hz, 2H), 0.90 (t, J=7.3 Hz, 3H), MS (ES) m/e 438 (M+1).

reactant | 2-{4-butyl-3-[2-(5-methyl-2-phenyloxazol-4-yl)ethoxy]phenoxy}-2-methylpropionic acid ethyl ester | 0.258 mmol, 0.12 g | C(C)OC(C(C)(C)OC1=CC(=C(C=C1)CCCC)OCCC=1N=C(OC1C)C1=CC=CC=C1)=O | C28H35NO5
reactant | NaOH | 2 N, 0.64 mL | [OH-].[Na+]
solvent | ethanol | 3 mL | C(C)O | C2H6O
product | 2-{4-Butyl-3-[2-(5-methyl-2-phenyloxazol-4-yl)ethoxy]phenoxy}-2-methylpropionic acid | 0.10 g, 88% | C(CCC)C1=C(C=C(OC(C(=O)O)(C)C)C=C1)OCCC=1N=C(OC1C)C1=CC=CC=C1 | C26H31NO5
